US09029604B2
A 250 mL rb flask was charged with magnetic stirbar, tetrabutyl ammonium bromide (TBAB, 2.72 g, 8.4 mmol), linoleyl alcohol (225 g, 884 mmol), and sodium hydroxide (50.7 g, 1.2 mol), then cooled in an ice bath. The (S)-epichlorohydrin (156 g, 1.69 mol) was added slowly over 2 hours and then warmed to ambient temperature and stirred overnight. 259 mL of hexane was added and allowed to stir for 15 mins, then mixture was filtered and organic layer was concentrated in vacuo. The product was purified using 0-10% ethyl acetate/hexane gradient on 330 g silica column to give (2R)-2-{[(9Z,12Z)-octadeca-9,12-dien-1-yloxy]methyl}oxirane. 1H NMR (CDCl3, 300 mHz) δ 0.90-0.86 (m, 3H), 1.29 (s, 16H), 1.55-1.64 (m, 2H), 2.00-2.07 (m, 4H), 2.58-2.61 (m, 1H), 2.74-2.80 (m, 3H), 3.12-3.15 (m, 1H) 3.34-3.52 (m, 3H), 3.67-3.72 (dd, J=12 Hz, 1H) 5.30-5.35 (m, 4H); HRMS (m+1) calcd 323.2872. Found 323.2951.

reactant | linoleyl alcohol | 884 mmol, 225 g | C(CCCCCCC\C=C/C\C=C/CCCCC)O | C18H34O
reactant | sodium hydroxide | 1.2 mol, 50.7 g | [OH-].[Na+]
reactant | (S)-epichlorohydrin | 1.69 mol, 156 g | C(Cl)[C@@H]1CO1 | C3H5ClO
catalyst | tetrabutyl ammonium bromide | 8.4 mmol, 2.72 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | hexane | 259 mL | CCCCCC | C6H14
product | (2R)-2-{[(9Z,12Z)-octadeca-9,12-dien-1-yloxy]methyl}oxirane | C(CCCCCCC\C=C/C\C=C/CCCCC)OC[C@@H]1OC1 | C21H38O2
